US08877975B2
(1-(3-chloro-4-fluorophenyl)cyclohexyl)-N-methylmethanamine (96)
The title compound was synthesized from 1-(3-chloro-4-fluorophenyl)-cyclohexanecarbaldehyde and methyl amine using General Procedure H1 and was obtained in 55% yield. LCMS Rt=7.73 min, m/z=256 (M+1). 1H NMR (CDCl3, δ): 7.37 (dd, J=2.4, 7.1 Hz, 1H), 7.22 (ddd, J=2.4, 4.6, 8.7 Hz, 1H), 7.09 (t, J=8.7 Hz, 1H), 2.58 (s, 2H), 2.29 (s, 3H), 2.0 (m, 2H), 1.7-1.2 (m, 8H). 13C NMR (CDCl3, δ, mult): 157.4(0), 154.9(0), 142.9(0), 129.2(1), 126.8(1), 126.7(1), 120.8(0), 120.6(0), 116.3(1), 116.1(1), 64.2(2), 42.1(0), 37.3(3), 34.6(2), 26.4(2), 22.1(2).

reactant | 1-(3-chloro-4-fluorophenyl)-cyclohexanecarbaldehyde | ClC=1C=C(C=CC1F)C1(CCCCC1)C=O | C13H14ClFO
reactant | methyl amine | CN | CH5N
product | (1-(3-chloro-4-fluorophenyl)cyclohexyl)-N-methylmethanamine | 55% yield | ClC=1C=C(C=CC1F)C1(CCCCC1)CNC | C14H19ClFN
